US04154747
A 1-amino-8-nitro-4,5-dihydroxyanthraquinone which may be used for the preparation of valuable dyes, eg. of the blue dyes described in German Laid-Open Application DOS No. 2,029,793, is only obtainable by the processes of the prior art by using pure 1,8-dinitro-4,5-dihydroxyanthraquinone, free from β-nitro compounds, as the starting material. According to the prior art, such a starting material can only be obtained as follows: 4,5-dichloro- or 4,5-dinitro-anthraquinone is reacted with phenol to give 4,5-diphenoxyanthraquinone. Nitration of this compound gives 1,8-dinitro-4,5-bis-(2',4'-dinitro-phenoxy)-anthraquinone, which is converted by alkaline scission into the disodium salt of 1,8-dinitro-4,5-dihydroxy-anthraquinone which is finally acidified to give 1,8-dinitro-4,5-dihydroxyanthraquinone, hereinafter also referred to as dinitrochrysazine (Endeavour 35, (September 1976), 137).

reactant | 1-amino-8-nitro-4,5-dihydroxyanthraquinone | NC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)[N+](=O)[O-])O)=O)O | C14H8N2O6
reactant | 1,8-dinitro-4,5-dihydroxyanthraquinone | [N+](=O)([O-])C1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)[N+](=O)[O-])O)=O)O | C14H6N2O8
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 4,5-diphenoxyanthraquinone | O(C1=CC=CC=C1)C1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)OC1=CC=CC=C1)=O | C26H16O4
